US06331563B1
[4-(3-methyl-butoxy)-phenylsulfanyl]-acetic acid ethyl ester
To stirred solution of (4-Hydroxy-phenylsulfanyl)-acetic acid ethyl ester (2.12 g, 10 mmol), k2CO3 (anhydrous, 10 g) and 1-bromo-3-methyl butane (3 g, excess) was added in boiling acetone. The reaction mixture was refluxed for 24 hrs and cooled to room temperature. The reaction mixture was filtered and concentrated. The residue obtained was extracted with chloroform; washed well with water and concentrated. The crude product obtained was taken to next step with out purification. Yield 2.7 g (94%); (M+H)+ 283.

reactant | (4-Hydroxy-phenylsulfanyl)-acetic acid ethyl ester | 10 mmol, 2.12 g | C(C)OC(CSC1=CC=C(C=C1)O)=O | C10H12O3S
reactant | 1-bromo-3-methyl butane | 3 g | BrCCC(C)C | C5H11Br
solvent | acetone | CC(=O)C | C3H6O
product | [4-(3-methyl-butoxy)-phenylsulfanyl]-acetic acid ethyl ester | C(C)OC(CSC1=CC=C(C=C1)OCCC(C)C)=O | C15H22O3S
